US04067723
(±) 2-[1-(2,3Dichlorophenyl)ethyl]furan (b.p. 108°-112° C./0.3 mm.Hg) was prepared in a manner similar to that described in Example 3(m) for the preparation of (±) 2-[1-(2-ethylphenyl)ethyl]furan but replacing the 1-(2-ethylphenyl)-1-(2-furyl)ethylene by 1(2,3-dichlorophenyl)-1-(2-furyl)ethylene.

reactant | (±) 2-[1-(2-ethylphenyl)ethyl]furan | C(C)C1=C(C=CC=C1)C(C)C=1OC=CC1 | C14H16O
reactant | 1(2,3-dichlorophenyl)-1-(2-furyl)ethylene | ClC1=C(C=CC=C1Cl)C(=C)C=1OC=CC1 | C12H8Cl2O
product | (±) 2-[1-(2,3Dichlorophenyl)ethyl]furan | ClC1=C(C=CC=C1Cl)C(C)C=1OC=CC1 | C12H10Cl2O
